US05663164
85 mg of N-chloroethyl pyrrolidine hydrochloride, 2 ml of methylene chloride and 210 μl of triethylamine were mixed together and 412 mg of diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-mercapto-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate in 3 ml of methylene choride was added. The mixture was refluxed for 3 hours and after cooling to 20° C., the reaction mixture was poured into 10 ml of iced water. The mixture was stirred for 5 minutes, decanted and re-extracted with methylene chloride. The combined organic phases were dried and concentrated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with a mixture of methylene chloride and acetone (1-1). After taking up again in isopropyl ether, 157 mg of syn isomer of racemic cis diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-[(2-(1-pyrrolidinyl)-ethyl)-thio]-8-oxo-4-thia-1-azabicyclo [4,2,0]oct-2-en-2-carboxylate were obtained.

reactant | N-chloroethyl pyrrolidine hydrochloride | 85 mg | Cl.ClCCN1CCCC1
reactant | triethylamine | 210 μl | C(C)N(CC)CC | C6H15N
reactant | diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-mercapto-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate | 412 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1C2CSC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)S)=NOC | C45H37N5O5S3
reactant | water | 10 ml | O | H2O
solvent | methylene choride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | racemic cis diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-[(2-(1-pyrrolidinyl)-ethyl)-thio]-8-oxo-4-thia-1-azabicyclo [4,2,0]oct-2-en-2-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)N[C@@H]1[C@H]2CSC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)SCCN1CCCC1)=NOC | C51H48N6O5S3
